US05580986
5. 5-Difluoromethoxy-3-hydrazino-1-methylpyrazole
39.8 g (0.25 mol) 3-Amino-5-difluoromethoxy-1-methylpyrazole was dissolved in 224 ml water and 450 ml concentrated hydrochloric acid. At -10° C., 18.55 g (0.27 mol) sodium nitrite in 80 ml water was added dropwise. After stirring for 1 hour at -10° C., 137.6 g tin(II)chloride, dissolved in 180 ml concentrated hydrochloric acid, was added, dropwise, at this temperature. After a further hour stirring at -10° C., 805 ml 32% caustic soda was added dropwise at this temperature. The reaction mixture was shaken 8 times with ethyl acetate, the combined organic phases washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated.

reactant | 3-Amino-5-difluoromethoxy-1-methylpyrazole | 0.25 mol, 39.8 g | NC1=NN(C(=C1)OC(F)F)C | C5H7F2N3O
reactant | sodium nitrite | 0.27 mol, 18.55 g | N(=O)[O-].[Na+]
reactant | tin(II)chloride | 137.6 g | [Sn](Cl)Cl
reactant | caustic soda | 805 ml | [OH-].[Na+]
solvent | water | 224 ml | O | H2O
solvent | hydrochloric acid | 450 ml | Cl | ClH
solvent | water | 80 ml | O | H2O
solvent | hydrochloric acid | 180 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Difluoromethoxy-3-hydrazino-1-methylpyrazole | FC(OC1=CC(=NN1C)NN)F | C5H8F2N4O
